US06518257B1
(i) Production of N-(5-bromo-2-fluorophenyl)acetamide
4-Bromo-1-fluoro-2-nitrobenzene (5.81 g), iron powder (6.20 g) and acetic anhydride (5 ml) were stirred in acetic acid (50 ml) at 60° C. for 16 h. Acetic acid was evaporated under reduced pressure and water and ethyl acetate were added. The organic layer was washed with aqueous sodium hydrogen carbonate and brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from hexane-ethyl acetate to give the title compound (3.56 g) as colorless prism crystals.

reactant | 4-Bromo-1-fluoro-2-nitrobenzene | 5.81 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 6.20 g | [Fe] | Fe
product | N-(5-bromo-2-fluorophenyl)acetamide | 3.56 g | BrC=1C=CC(=C(C1)NC(C)=O)F | C8H7BrFNO
